US04117128
3-[4-(3-Di-n-butylaminopropoxy)phenylsulfonyl]-2-phenylbenzofuran
To a solution of 0.85 g. (0.0024 mol.) of 3-(4-hydroxyphenylsulfonyl)-2-phenylbenzofuran in 25 ml. of dry acetone was added 0.96 g. (0.0048 mol.) of 1,3-dibromopropane and 0.66 g. (0.0048 mol.) of potassium carbonate. The mixture was refluxed for ca. 12 hours, then an additional 0.4 g. of 1,3-dibromopropane, 0.3 g. of potassium carbonate and 25 ml. of dry acetone were added and the mixture was refluxed for 5 hours. The reaction mixture was filtered and the solvent was removed in vacuo to give a residue which was dissolved in 2-4 ml. of ethanol to which 22-24 ml. of freshly distilled di-n-butylamine was added. The mixture was heated at 130° for 4 hours, then cooled and diluted with ethanol. The solvent and excess amine were removed by evaporation to give 0.23 g. of the title compound.

reactant | 3-(4-hydroxyphenylsulfonyl)-2-phenylbenzofuran | 0.0024 mol | OC1=CC=C(C=C1)S(=O)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=CC=C2 | C20H14O4S
reactant | 1,3-dibromopropane | 0.0048 mol | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 0.0048 mol | C([O-])([O-])=O.[K+].[K+]
reactant | di-n-butylamine | C(CCC)NCCCC | C8H19N
solvent | ethanol | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
product | 3-[4-(3-Di-n-butylaminopropoxy)phenylsulfonyl]-2-phenylbenzofuran | C(CCC)N(CCCOC1=CC=C(C=C1)S(=O)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=CC=C2)CCCC | C31H37NO4S
